US06218410B1
N-(1-tert-Butoxycarbonyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-benzyloxycarbonyl-4-piperidinecarboxamide (2 g) was dissolved in methanol (30 ml) and 10% palladium carbon hydroxide (0.5 g) was added for hydrogenation (normal pressure). After the completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to give 1.2 g of N-(1-tert-butoxycarbonyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-4-piperidinecarboxamide.

reactant | N-(1-tert-Butoxycarbonyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-benzyloxycarbonyl-4-piperidinecarboxamide | 2 g | C(C)(C)(C)OC(=O)N1C=CC=2C1=NC=CC2NC(=O)C2CCN(CC2)C(=O)OCC2=CC=CC=C2 | C26H30N4O5
solvent | methanol | 30 ml | CO | CH4O
catalyst | palladium carbon hydroxide | 0.5 g | [OH-].[C+4].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | N-(1-tert-butoxycarbonyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-4-piperidinecarboxamide | 1.2 g | C(C)(C)(C)OC(=O)N1C=CC=2C1=NC=CC2NC(=O)C2CCNCC2 | C18H24N4O3
